US07691898B2
(1) [5-(4-Ethoxybenzyl)thiophen-2-carbonyl]phosphonic acid diethylester
Triethyl phosphite (1.3 mL) was added to 5-(4-ethoxybenzyl)thiophen-2-carbonylchloride (1.10 g), and the mixture was stirred for 22 hr at room temperature. After evaporation, the residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=2/1) to give the title compound (0.54 g) as a pale yellow oil.

reactant | Triethyl phosphite | 1.3 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | 5-(4-ethoxybenzyl)thiophen-2-carbonylchloride | 1.10 g | C(C)OC1=CC=C(CC2=CC=C(S2)C(=O)Cl)C=C1 | C14H13ClO2S
product | [5-(4-Ethoxybenzyl)thiophen-2-carbonyl]phosphonic acid diethylester | 0.54 g | C(C)OP(OCC)(=O)C(=O)C=1SC(=CC1)CC1=CC=C(C=C1)OCC | C18H23O5PS
